US06734179B2
0.9 g (0.002 Mol) 4-(4-methoxy-2-methoxycarbonylamino-benzothiazol-7-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester were dissolved in a mixture of 7 ml dioxane, 14 ml ethylene glycol and 14 ml 2 N NaOH and heated to 100° C. for 15 h. After cooling to room temperature the pH was adjusted to 7 with 1 N HCl. A precipitation formed, which was filtered, washed with water and dried in vacuo to yield 0.65 g (84%) 4-(2-amino-4-methoxy-benzothiazol-7-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester as a light yellow solid; F.p.: 191-196° C.

reactant | 4-(4-methoxy-2-methoxycarbonylamino-benzothiazol-7-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 0.002 Mol, 0.9 g | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CC=C(C=2N=C(SC21)NC(=O)OC)OC | C20H25N3O5S
reactant | HCl | 1 N | Cl | ClH
solvent | dioxane | 7 ml | O1CCOCC1 | C4H8O2
solvent | ethylene glycol | 14 ml | C(CO)O | C2H6O2
solvent | NaOH | 2 N, 14 ml | [OH-].[Na+]
product | 4-(2-amino-4-methoxy-benzothiazol-7-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 0.65 g, 84% | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CC=C(C=2N=C(SC21)N)OC | C18H23N3O3S
